US05342835
3-(3,4-Dimethoxyphenyl)benzothiophene-3-carboxylic acid (25 g; 0.08 mole) prepared according to process D, 1,2-dichloroethane (300 ml), thionyl chloride (12 ml, 0.16 mole) and DMF (1 ml) are introduced into a flask. The mixture is progressively heated to reflux temperature; the solid dissolves little by little to provide a clear yellow solution. After four hours, the solvents are evaporated to provide 2-(chlorocarbonyl)-3-(3,4-dimethoxyphenyl)benzothiophene (24.7 g; yield=96%).

reactant | 3-(3,4-Dimethoxyphenyl)benzothiophene-3-carboxylic acid | 0.08 mole, 25 g | COC=1C=C(C=CC1OC)C1(CSC2=C1C=CC=C2)C(=O)O | C17H16O4S
reactant | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
reactant | thionyl chloride | 0.16 mole, 12 ml | S(=O)(Cl)Cl | Cl2OS
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | 2-(chlorocarbonyl)-3-(3,4-dimethoxyphenyl)benzothiophene | 24.7 g, yield=96% | ClC(=O)C=1SC2=C(C1C1=CC(=C(C=C1)OC)OC)C=CC=C2 | C17H13ClO3S
